US09062070B2
Step B: (S)-benzyl 4-((S)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate
To a solution of (S)-tert-butyl 4-((S)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate (2.57 g, 6.32 mmol) in methylene chloride (3 mL) was added trifluoroacetic acid (10 mL, 130 mmol) at rt for 1 h. After removing the volatiles under reduced pressure the residue was dissolved in methylene chloride (100 mL). To the above solution was added triethylamine (4.40 mL, 31.6 mmol) and benzyl chloroformate (0.95 mL, 6.64 mmol) at 0° C. for 0.5 h. The reaction was quenched by water followed by addition of saturated sodium carbonate. The mixture was extracted with methylene chloride, dried over sodium sulfate, concentrated and the residue was purified by MPLC on a Biotage system using 40-100% EtOAc/hexane to give the title compound. LC/MS: (M+1)+: 441.11.

reactant | (S)-tert-butyl 4-((S)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | 6.32 mmol, 2.57 g | O[C@H](CN1[C@@H](CN(CC1)C(=O)OC(C)(C)C)CO)C=1C(=C2COC(C2=CC1)=O)C | C21H30N2O6
reactant | trifluoroacetic acid | 130 mmol, 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylamine | 31.6 mmol, 4.40 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 6.64 mmol, 0.95 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | (S)-benzyl 4-((S)-2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(hydroxymethyl)piperazine-1-carboxylate | O[C@H](CN1[C@@H](CN(CC1)C(=O)OCC1=CC=CC=C1)CO)C=1C(=C2COC(C2=CC1)=O)C | C24H28N2O6
